US06825191B2
Step 2: Synthesis of ethyl [(2-amino-5-methoxybenzyl)-(4-chlorobenzoyl)amino]acetate
1.0 g (2.5 mmol) of ethyl [(5-methoxy-2-nitrobenzyl)-(4-chlorobenzoyl)amino]acetate was dissolved in a mixture of 10 ml of ethyl acetate and 10 ml of ethanol. 360 mg of 10% palladium/carbon was added to the obtained solution, and they were stirred in the presence of hydrogen at room temperature for 4 hours. The reaction mixture was filtered through Celite and the solvent was evaporated. The obtained crude product was purified by the silica gel column chromatography to obtain the title compound.

reactant | ethyl [(5-methoxy-2-nitrobenzyl)-(4-chlorobenzoyl)amino]acetate | 2.5 mmol, 1.0 g | COC=1C=CC(=C(CN(C(C2=CC=C(C=C2)Cl)=O)CC(=O)OCC)C1)[N+](=O)[O-] | C19H19ClN2O6
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium/carbon | 360 mg | [Pd] | Pd
product | ethyl [(2-amino-5-methoxybenzyl)-(4-chlorobenzoyl)amino]acetate | NC1=C(CN(C(C2=CC=C(C=C2)Cl)=O)CC(=O)OCC)C=C(C=C1)OC | C19H21ClN2O4
